US07378427B2
N-(2-Iodophenyl)-4-methoxy-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide
To a stirred suspension of sodium hydride (1.17 g, 29.25 mmol, 60% in oil) in anhydrous tetrahydrofuran (40 mL), which had been cooled to 0° C., was added N-(2-iodophenyl)-4-methoxybenzenesulfonamide (9.36 g, 19.6 mmol) in tetrahydrofuran (20 mL). After the addition was complete, the cooling bath was removed and the mixture stirred at room temperature for 90 minutes. 2-(Trimethylsilyl)ethoxymethyl chloride (4.25 g, 25.5 mmol) in tetrahydrofuran (20mL) was added dropwise and the reaction mixture stirred for an additional 16 hours. Water (10 mL) was added and the mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The organic phase was washed with a saturated, aqueous sodium chloride solution. After drying over anhydrous magnesium sulfate, the organic phase was filtered and the filtrate was evaporated in vacuo to yield the crude title compound as a colorless oil. Purification by silica gel chromatography by elution with hexane-ethyl acetate (10:1) provided the title compound as a colorless oil. Trituration with hexane provided the title compound as a white solid (8.55 g, 16.5 mmol, 84%), m.p. 69-70° C.

reactant | sodium hydride | 29.25 mmol, 1.17 g | [H-].[Na+]
reactant | N-(2-iodophenyl)-4-methoxybenzenesulfonamide | 19.6 mmol, 9.36 g | IC1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C13H12INO3S
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 25.5 mmol, 4.25 g | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | Water | 10 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20mL | O1CCCC1 | C4H8O
product | N-(2-Iodophenyl)-4-methoxy-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide | IC1=C(C=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)OC)COCC[Si](C)(C)C | C19H26INO4SSi
